US06747023B1
trans-2,6-Bis(methoxycarbonylmethyl)-1-(4-bromobenzoyl)-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine
In dichloromethane (8 ml), the trans-2,6-bis(methoxycarbonylmethyl)-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine (79.7 mg) was dissolved. Under ice cooling, N,N-diisopropylethylamine (68.0 μl) and a solution of 4-bromobenzoyl chloride (51.0 mg) in dichloromethane (2 ml) were added to the resulting solution, followed by stirring at room temperature for 5.5 hours. Water was added to the reaction mixture to separate the organic layer. The organic layer was washed with saturate aqueous NaCl solution, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column (n-hexane:ethyl acetate=l:1), whereby the title compound (113 mg, 98%) was obtained as pale yellow amorphous powder.

reactant | trans-2,6-bis(methoxycarbonylmethyl)-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine | 79.7 mg | COC(=O)C[C@@H]1N[C@H](CN(C1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)CC(=O)OC | C20H23ClN2O6S
reactant | N,N-diisopropylethylamine | 68.0 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-bromobenzoyl chloride | 51.0 mg | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
reactant | Water | O | H2O
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | trans-2,6-Bis(methoxycarbonylmethyl)-1-(4-bromobenzoyl)-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine | COC(=O)C[C@@H]1N([C@H](CN(C1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)CC(=O)OC)C(C1=CC=C(C=C1)Br)=O | C27H26BrClN2O7S
